US07557103B2
A. 1-{3-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridin-8-yl}-2,2-dimethyl-propan-1-ol
Using a procedure analogous to Example 41, 3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridine-8-carbaldehyde (0.20 g, 0.53 mmol) and t-BuMgBr (2.0 M, 0.32 mL, 0.64 mmol) give the title compound (91.9 mg, 0.21 mmol, 66%). 1H NMR (CDCl3): δ 0.87-0.95 (m, 6H), 1.06 (s, 4.5H), 1.07 (s, 4.5H), 1.79-1.94 (m, 4H), 2.38 (s, 3H), 2.42 (s, 3H), 2.46 (s, 3H), 3.30-3.41 (m, 1H), 4.65-5.80 (m, 1H), 6.69-6.76 (m, 2H), 7.05 (bs, 1H), 7.43 (dd, J=13.7, 7.1 Hz, 1H) ppm. ES-MS (m/z): calcd for C26H35N5O (M+1)+: 434.6. found: 434.5.

reactant | 3-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridine-8-carbaldehyde | 0.53 mmol, 0.20 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1C=O)C | C22H25N5O
reactant | t-BuMgBr | 0.64 mmol, 2.0 M, 0.32 mL | C(C)(C)(C)[Mg]Br
product | 1-{3-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridin-8-yl}-2,2-dimethyl-propan-1-ol | 0.21 mmol, 91.9 mg, 66% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1C(C(C)(C)C)O)C | C26H35N5O
